US07071201B2
1-Benzyl-4-(3-methoxyphenyl)aminopiperidine (1.88 g) synthesized in accordance with the method of Referential Example 1 of JP-B 40-6347 was dissolved in ether (38 ml). Into the resultant solution was added dropwise oxalyl chlori de (1.62 g) over 30 min at room temperature followed by heating under reflux for 3.5 hr. After cooling to room temperature, the reaction solution was concentrated under reduced pressure. Into a suspension of aluminum chloride (5.9 g) in methylene chloride (20 ml) was added dropwise a solution of the resulting residue in methylene chloride (100 ml) at 0° C. over 30 min. After the completion of the addition, the resultant mixture was stirred at room temperature for additional 1.5 hr. After the completion of the reaction, the reaction solution was poured into ice and neutralized by adding an aqueous solution of sodium bicarbonate thereto. The resulting precipitate was filtered off and the filtrate was extracted with methylene chloride. After removing the solvent, the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give 1-(1-benzylpiperidin-4-yl)-6-methoxyindoline-2,3-dione (1.63 g) (yield: 73%).

reactant | 1-Benzyl-4-(3-methoxyphenyl)aminopiperidine | 1.88 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC(=CC=C1)OC | C19H24N2O
reactant | oxalyl chlori de | 1.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 38 ml | CCOCC | C4H10O
product | 1-(1-benzylpiperidin-4-yl)-6-methoxyindoline-2,3-dione | 1.63 g, yield: 73% | C(C1=CC=CC=C1)N1CCC(CC1)N1C(C(C2=CC=C(C=C12)OC)=O)=O | C21H22N2O3
